US04578465
A mixture of 1-(2-methoxyphenyl)-4-[2-(2-aminobenzoyl)-aminoethyl]piperazine (3.54 g) and triethylamine (2.2 g) was dissolved in methylene chloride (50 ml), and the resulting solution was added dropwise to a solution of trichloromethyl chloroformate (0.989 g) in methylene chloride (20 ml) under stirring at between -5° and 5° C. Then, the mixture was gradually heated to room temperature at which it was held for 1 to 2 hours to effect reaction. After completion of the reaction, saturated aqueous sodium hydrogencarbonate was added to the reaction mixture and the resulting mixture was extracted with methylene chloride, the methylene chloride layer was washed with water twice and dried on anhydrous magnesium sulfate. The solvent was concentrated under vacuum and isopropanol was added to the residue to give 2.28 g of crystalline 3-[2-[4-(2-methoxyphenyl)-1-piperazinyl]-ethyl]-2,4-(1H,3H)quinazolinedione having a melting point of 217°-218° C. (recrystallized from chloroform-ether).

reactant | 1-(2-methoxyphenyl)-4-[2-(2-aminobenzoyl)-aminoethyl]piperazine | 3.54 g | COC1=C(C=CC=C1)N1CCN(CC1)CC(C(C1=C(C=CC=C1)N)=O)N | C20H26N4O2
reactant | triethylamine | 2.2 g | C(C)N(CC)CC | C6H15N
reactant | trichloromethyl chloroformate | 0.989 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 3-[2-[4-(2-methoxyphenyl)-1-piperazinyl]-ethyl]-2,4-(1H,3H)quinazolinedione | 2.28 g | COC1=C(C=CC=C1)N1CCN(CC1)CCN1C(NC2=CC=CC=C2C1=O)=O | C21H24N4O3
